US08349865B2
Step 1: 5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-methylaniline
To a solution of (3-amino-4-methylphenyl)methanol (1.0 g, 7.3 mmol) in DMF (7.3 mL) was added tert-butyldimethylchlorosilane (1.2 g, 8.1 mmol) and imidazole (0.65 g, 9.5 mmol). The reaction stirred at room temperature for 18 hours and then was poured into a separatory funnel with water and EtOAc. The mixture was extracted with EtOAc and the extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by silica gel column chromatography (0-40% EtOAc/heptane) afforded the title compound.

reactant | (3-amino-4-methylphenyl)methanol | 7.3 mmol, 1.0 g | NC=1C=C(C=CC1C)CO | C8H11NO
reactant | tert-butyldimethylchlorosilane | 8.1 mmol, 1.2 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 9.5 mmol, 0.65 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 7.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-2-methylaniline | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=C(N)C1)C | C14H25NOSi
